### PR TITLE
[Merged by Bors] - feat: real-valued Lᵖ norm

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean [hunk 1]
```diff
@@ -0,0 +1,200 @@
...
+lemma nnLpNorm_le_add_nnLpNorm_add (hf : MemLp f p μ) (hg : MemLp g p μ) (hp : 1 ≤ p) :
+    nnLpNorm f p μ ≤ nnLpNorm (f + g) p μ + nnLpNorm g p μ := by
+  simpa using nnLpNorm_add_le (hf.add hg) hg.neg hp
+
+lemma nnLpNorm_sub_le_nnLpNorm_sub_add_nnLpNorm_sub (hf : MemLp f p μ) (hg : MemLp g p μ)
+    (hh : MemLp h p μ) (hp : 1 ≤ p) :
+    nnLpNorm (f - h) p μ ≤ nnLpNorm (f - g) p μ + nnLpNorm (g - h) p μ := by
+  simpa using nnLpNorm_add_le (hf.sub hg) (hg.sub hh) hp
+
+lemma nnLpNorm_sum_le {ι : Type*} {s : Finset ι} {f : ι → α → E} (hf : ∀ i ∈ s, MemLp (f i) p μ)
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean:168]: Do we also have the eLpNorm of this and the below? (Do we want them?)

**Review by b-mehta — COMMENTED** [review]
This looks reasonable enough to me, but I'd like an analyst to check too.

maintainer merge

File: Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean:168]: `eLpNorm_sum_le` exists. `eLpNorm_expect_le` can't be stated (because `Module ℚ≥0 ℝ≥0∞` currently doesn't exist). I'll leave a TODO

Comment (b-mehta) [reply Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean:168]: Perhaps you'd also like to mention it here, so that once that does exist it can be used to golf this one?

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean:168]: I think the current proof of `nnLpNorm_expect_le` is longer than the one from the hypothetical `eLpNorm_expect_le `: Look at how long the proof of `nnLpNorm_sum_le` is.

Comment (b-mehta) [reply Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean:168]: You can make it shorter:
```
  rw [← ENNReal.coe_le_coe, coe_nnLpNorm_eq_eLpNorm (memLp_finset_sum' s hf),
    ENNReal.coe_finset_sum]
  exact (eLpNorm_sum_le (fun i hi ↦ (hf _ hi).aestronglyMeasurable) hp).trans_eq <|
    Finset.sum_congr rfl fun i hi ↦ (coe_nnLpNorm_eq_eLpNorm (hf i hi)).symm
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean [hunk 2]
```diff
@@ -0,0 +1,200 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies
+-/
+import Mathlib.MeasureTheory.Integral.Bochner.Basic
+import Mathlib.Tactic.Positivity.Finset
+
+/-!
+# `ℝ≥0`-valued Lᵖ norm
+
+This file defines `MeasureTheory.nnLpNorm`, an `ℝ≥0`-valued version of `MeasureTheory.eLpNorm`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean:12]: The definition is not in this file, right?

File: Mathlib/MeasureTheory/Function/LpSeminorm/TriangleInequality.lean [hunk 3]
```diff
@@ -149,6 +149,17 @@ theorem eLpNorm_sum_le {ι} {f : ι → α → E} {s : Finset ι}
...
+-- open scoped BigOperators in
+-- lemma eLpNorm_expect_le [Module ℚ≥0 E] [NormedSpace ℝ E] {ι : Type*} {s : Finset ι}
+--     {f : ι → α → E} (hf : ∀ i ∈ s, MemLp (f i) p μ) (hp : 1 ≤ p) :
+--    eLpNorm (𝔼 i ∈ s, f i) p μ ≤ 𝔼 i ∈ s, eLpNorm (f i) p μ  :=  by
+--   obtain rfl | hs := s.eq_empty_or_nonempty
+--   · simp
+--   refine (le_inv_smul_iff_of_pos <| by positivity).2 ?_
+--   rw [Nat.cast_smul_eq_nsmul, ← eLpNorm_nsmul, Finset.card_smul_expect]
+--   exact eLpNorm_sum_le hf hp
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/TriangleInequality.lean:162]: remove it for now?

Comment (b-mehta) [reply Mathlib/MeasureTheory/Function/LpSeminorm/TriangleInequality.lean:162]: I didn't mean to add the proof, just the TODO!

**Review by sgouezel — COMMENTED** [review]
I'm not completely sure I am convinced by the PR: one lesson from Carleson is that when you formalize analysis, you need the ennreal-valued norms, and the real-valued norms. Can you explain why you think the nnreal valued version is more important than the real-valued?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 4]
```diff
@@ -0,0 +1,206 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies
+-/
+module
+
+public import Mathlib.MeasureTheory.Integral.Bochner.Basic
+public import Mathlib.Tactic.Positivity.Finset
+
+/-!
+# `ℝ≥0`-valued Lᵖ norm
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: This is not up to date, right? Same thing below.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Defs.lean [hunk 5]
```diff
@@ -137,6 +136,12 @@ lemma eLpNorm_nnreal_pow_eq_lintegral {f : α → ε} {p : ℝ≥0} (hp : p ≠
   simp [eLpNorm_eq_eLpNorm' (by exact_mod_cast hp) ENNReal.coe_ne_top,
     lintegral_rpow_enorm_eq_rpow_eLpNorm' ((NNReal.coe_pos.trans pos_iff_ne_zero).mpr hp)]
 
+/-- `ℝ≥0`-valued `ℒp` seminorm, equal to `0` for `p = 0`, to `(∫ ‖f a‖^p ∂μ) ^ p⁻¹` for `0 < p < ∞
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Defs.lean]: fix docstring?

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 6]
```diff
@@ -0,0 +1,206 @@
+/-
+Copyright (c) 2024 Yaël Dillies. All rights reserved.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean:2]:
```suggestion
Copyright (c) 2026 Yaël Dillies. All rights reserved.
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 7]
```diff
@@ -0,0 +1,206 @@
...
+
+namespace MeasureTheory
+variable {α E : Type*} {m : MeasurableSpace α} {p : ℝ≥0∞} {q : ℝ} {μ ν : Measure α}
+  [NormedAddCommGroup E] {f g h : α → E}
+
+lemma ofReal_lpNorm_eq_eLpNorm (hf : MemLp f p μ) : .ofReal (lpNorm f p μ) = eLpNorm f p μ := by
+  rw [lpNorm, ENNReal.ofReal_toReal hf.eLpNorm_ne_top]
+
+-- TODO: Rename `eLpNorm_eq_lintegral_rpow_enorm` to `eLpNorm_eq_lintegral_rpow_enorm_toReal`
+lemma coe_lpNorm_eq_integral_norm_rpow_toReal (hp₀ : p ≠ 0) (hp : p ≠ ∞)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: remove the `coe_` in this lemma and in other lemmas below.

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean:2]: I wrote most of this code in 2024, which is what matters I assume

File: Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean [hunk 8]
```diff
@@ -0,0 +1,201 @@
...
+-/
+
+open Filter
+open scoped BigOperators ComplexConjugate ENNReal NNReal
+
+namespace MeasureTheory
+variable {α E : Type*} {m : MeasurableSpace α} {p : ℝ≥0∞} {q : ℝ} {μ ν : Measure α}
+  [NormedAddCommGroup E] {f g h : α → E}
+
+lemma coe_nnLpNorm_eq_eLpNorm (hf : MemLp f p μ) : nnLpNorm f p μ = eLpNorm f p μ := by
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSeminorm/NNLpNorm.lean]: Do you think the `MemLp` assumption will be inferrable in practice?

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 9]
```diff
@@ -0,0 +1,206 @@
...
+
+namespace MeasureTheory
+variable {α E : Type*} {m : MeasurableSpace α} {p : ℝ≥0∞} {q : ℝ} {μ ν : Measure α}
+  [NormedAddCommGroup E] {f g h : α → E}
+
+lemma ofReal_lpNorm_eq_eLpNorm (hf : MemLp f p μ) : .ofReal (lpNorm f p μ) = eLpNorm f p μ := by
+  rw [lpNorm, ENNReal.ofReal_toReal hf.eLpNorm_ne_top]
+
+lemma lpNorm_eq_integral_norm_rpow_toReal (hp₀ : p ≠ 0) (hp : p ≠ ∞)
+    (hf : AEMeasurable (fun x ↦ ‖f x‖ₑ ^ p.toReal) μ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: Assume just that `fun x ↦ ‖f x‖ₑ` is aemeasurable? It's equivalent to your version, but typically easier to check (for instance if `f` itself is aemeasurable, it's just one dot notation application). Even better, assume it for `fun x ↦ ‖f x‖` to make the statement purely a real one.

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 10]
```diff
@@ -0,0 +1,206 @@
...
+    lpNorm f p μ = (∫ x, ‖f x‖ ^ p.toReal ∂μ) ^ p.toReal⁻¹ := by
+  rw [lpNorm, eLpNorm_eq_lintegral_rpow_enorm_toReal hp₀ hp, ← ENNReal.toReal_rpow,
+    ← integral_toReal hf]
+  · simp [← ENNReal.toReal_rpow]
+  · exact .of_forall fun x ↦ ENNReal.rpow_lt_top_of_nonneg (by positivity) (by simp)
+
+lemma lpNorm_nnreal_eq_integral_norm_rpow {p : ℝ≥0} (hp : p ≠ 0)
+    (hf : AEMeasurable (fun x ↦ (‖f x‖₊ : ℝ≥0∞) ^ p.toReal) μ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: ditto

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 11]
```diff
@@ -0,0 +1,206 @@
...
+    lpNorm f p μ = (∫ x, ‖f x‖ ^ (p : ℝ) ∂μ) ^ (p⁻¹ : ℝ) := by
+  rw [lpNorm_eq_integral_norm_rpow_toReal (by positivity) (by simp) hf]; simp
+
+lemma lpNorm_one_eq_integral_norm (hf : AEMeasurable (fun x ↦ ‖f x‖ₑ) μ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: ditto

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 12]
```diff
@@ -0,0 +1,206 @@
...
+    lpNorm f 1 μ = ∫ x, ‖f x‖ ∂μ := by
+  rw [lpNorm_eq_integral_norm_rpow_toReal one_ne_zero ENNReal.coe_ne_top (by simpa using hf)]
+  simp
+
+@[simp] lemma lpNorm_exponent_zero (f : α → E) : lpNorm f 0 μ = 0 := by simp [lpNorm]
+@[simp] lemma lpNorm_measure_zero (f : α → E) : lpNorm f p (0 : Measure α) = 0 := by simp [lpNorm]
+
+lemma ae_le_lpNorm_exponent_top (hf : MemLp f ∞ μ) : ∀ᵐ x ∂μ, ‖f x‖ ≤ lpNorm f ⊤ μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: It's strange to use `∞` first and `⊤` then. Only use `∞` throughout the file?

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 13]
```diff
@@ -0,0 +1,206 @@
...
+lemma lpNorm_div_natCast [CharZero 𝕜] {n : ℕ} (hn : n ≠ 0) (f : α → 𝕜) (p : ℝ≥0∞)
+    (μ : Measure α) : lpNorm (f / (n : α → 𝕜)) p μ = lpNorm f p μ / n := by
+  rw [eq_div_iff (by positivity), ← lpNorm_mul_natCast]; simp [Pi.mul_def, hn]
+
+lemma lpNorm_fun_div_natCast [CharZero 𝕜] {n : ℕ} (hn : n ≠ 0) (f : α → 𝕜) (p : ℝ≥0∞)
+    (μ : Measure α) : lpNorm (f · / n) p μ = lpNorm f p μ / n := lpNorm_div_natCast hn ..
+
+end NormedField
+
+lemma lpNorm_add_le (hf : MemLp f p μ) (hg : MemLp g p μ) (hp : 1 ≤ p) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: You just need `hf`, not `hg`: if `f` is in `L^p` but `g` is not, then the sum is not, so the norm of the sum is zero and the inequality is trivially true. Same thing several times below.

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: Where is the statement that `rpow` is measurable? Without it, I can't do anything

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: I don't think that's quite true. If `g` isn't ae-measurable, then `eLpNorm f p μ` isn't necessarily zero, and therefore `lpNorm f p μ` neither

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: would docs#ENNReal.continuous_rpow_const be enough?

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean (hunk 13 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: You write in the definition of lpNorm "This is well-defined only if `MemLp f p μ`. Otherwise, it equals `0`." Is that wrong?

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: Yeah, good point. I've switched to the junk value I am documenting

File: Mathlib/Order/Filter/ENNReal.lean [hunk 14]
```diff
@@ -212,4 +212,49 @@ theorem limsup_liminf_le_liminf_limsup {β} [Countable β] {f : Filter α} [Coun
...
+    filter_upwards [h x (by simpa using hx)] with a ha
+    obtain ha₀ | ha₀ := le_total (u a) 0
+    · simpa [ofReal_of_nonpos, *] using hx.bot_lt
+    · simp [ofReal_lt_coe_iff, *]
+  · rintro h x hx
+    have : 0 < x := hx.trans_le' (by simp)
+    filter_upwards [h (.ofReal x) (by simpa [this] using hx)] with a ha
+    exact (toReal_lt_of_lt_ofReal ha).trans_le' (by simp [toReal_ofReal'])
+
+lemma toReal_limsup [f.NeBot] {u : α → ℝ≥0∞} (h₁ : ∀ᶠ a in f, u a ≠ ∞)
```
Comment (sgouezel) [inline Mathlib/Order/Filter/ENNReal.lean]: Isn't this also true when f is bot, thanks to our choice of junk value?

Comment (YaelDillies) [reply Mathlib/Order/Filter/ENNReal.lean]: This is more and more looking like junk valuerology! 😅
